US04203987
2,3,4,4a-Tetrahydro-3-[2-(2-Piperidinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One
A solution of 2,3,4,4a-tetrahydro-3-[2-(2-pyridinyl)-ethyl]-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one in 120 ml. water and 60 ml. ethanol containing 14 ml. conc. hydrochloric acid, was shaken with 1.2 g. of PtO2 under 45 psi. hydrogen pressure. Solution was filtered, concentrated under vacuum, and residue crystallized once from ethanol and then from methanol. After filtration and drying the dihydrochloride salt of the title compound had a m.p. of 268°-271° C. (dec.); yield: 3.5 g.

reactant | 2,3,4,4a-tetrahydro-3-[2-(2-pyridinyl)-ethyl]-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | N1=C(C=CC=C1)CCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C18H20N4O
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | PtO2 | O=[Pt]=O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 2,3,4,4a-Tetrahydro-3-[2-(2-Piperidinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxalin-5(6H)-One | N1C(CCCC1)CCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C18H26N4O
